US05912246
A mixture of 2-amino-3,5-dichloropyridine (Aldrich; 5.12 g), 1,3-dichloroacetone (Aldrich; 4.68 g), and dimethoxyethane (28 mL) is stirred overnight at room temperature. Ethanol (28 mL) is then added and the mixture is refluxed for 7.5 h and then stirred overnight at room temperature. The mixture is then refluxed for an additional 24 h and is then concentrated under reduced pressure and partitioned between saturated aq. sodium bicarbonate and dichloromethane. The combined organic layers are washed with brine, dried with MgSO4, and concentrated under reduced pressure. The residue is adsorbed to silica gel and chromatographed on silica gel using ethyl acetate/chloroform (10/90), followed by a second chromatography of the combined product fractions using methanol/dichlormethane (2/98), to give 2.22 g of 6,8-dichloro-2-(chloromethyl)imidazo[1,2-α]pyridine in three crops after crystallization from methanol/dichloromethane; mp 162-163° C.; MS m/z 234, 236, 238; IR (mineral oil) 994, 808, 861, 1522, 3056 cm-1 ; 1H NMR (CDCl3) δ4.79, 7.69, 8.10.

reactant | 2-amino-3,5-dichloropyridine | 5.12 g | NC1=NC=C(C=C1Cl)Cl | C5H4Cl2N2
reactant | 1,3-dichloroacetone | 4.68 g | ClCC(=O)CCl | C3H4Cl2O
reactant | dimethoxyethane | 28 mL | C(OC)COC | C4H10O2
solvent | Ethanol | 28 mL | C(C)O | C2H6O
product | 6,8-dichloro-2-(chloromethyl)imidazo[1,2-α]pyridine | 2.22 g | ClC=1C=C(C=2N(C1)C=C(N2)CCl)Cl | C8H5Cl3N2
